US07371777B2
Methyl 2-[3-(ammoniomethyl)benzyl]tetrahydro-2-furancarboxylate chloride
To a solution of 1.26 g of methyl 2-(3-{[(t-butoxycarbonyl)amino]methyl}benzyl)tetrahydro-2-furancarboxylate in 20 ml of dichloromethane was added 20 ml of trifluoroacetic acid, and the mixture was stirred at room temperature for 16 hours. The reaction mixture was evaporated, and the residue was dissolved in 30 ml of ethyl acetate. 2 ml of hydrogen chloride (4N solution in ethyl acetate) was added and the mixture was concentrated again, to give 0.84 g of the title compound as a brown oil.

reactant | methyl 2-(3-{[(t-butoxycarbonyl)amino]methyl}benzyl)tetrahydro-2-furancarboxylate | 1.26 g | C(C)(C)(C)OC(=O)NCC=1C=C(CC2(OCCC2)C(=O)OC)C=CC1 | C19H27NO5
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl 2-[3-(ammoniomethyl)benzyl]tetrahydro-2-furancarboxylate chloride | 0.84 g | [Cl-].[NH3+]CC=1C=C(CC2(OCCC2)C(=O)OC)C=CC1 | InChI=1S/C14H19NO3.ClH/c1-17-13(16)14(6-3-7-18-14)9-11-4-2-5-12(8-11)10-15;/h2,4-5,8H,3,6-7,9-10,15H2,1H3;1H
